US07652022B2
Stage 93.2: 3-(4-Nitro-phenoxy)-1H-pyridin-6-one
A suspension of 2,5-dihydroxy-pyridine (4.65 g, 41.9 mmol), 4-fluoro-nitrobenzene (2.22 ml, 21 mmol) and Cs2CO3 (13.7 g, 41.9 mmol) in N-methyl-pyrrolidine (60 ml) is stirred for 18 h at 90° C. under N2-atmosphere. The reaction mixture is diluted with water and AcOEt, the aqueous layer separated off and extracted twice with AcOEt. The organic phases are washed with a NaHCO3 solution and brine, dried (Na2SO4) and partially concentrated. Thereby the title compound crystallizes and can be filtered off and washed with AcOEt: m.p.: 214-217° C.; 1H-NMR (DMSO-d6): 11.6 (s, HN), 8.22 (d, 2H), 7.57 (d, 1H), 7.43 (dd, 1H), 6.14 (d, 2H), 6.46 (d, 1H).

reactant | 2,5-dihydroxy-pyridine | 41.9 mmol, 4.65 g | OC1=NC=C(C=C1)O | C5H5NO2
reactant | 4-fluoro-nitrobenzene | 21 mmol, 2.22 ml | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | Cs2CO3 | 41.9 mmol, 13.7 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | N-methyl-pyrrolidine | 60 ml | CN1CCCC1 | C5H11N
solvent | water | O | H2O
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 3-(4-Nitro-phenoxy)-1H-pyridin-6-one | [N+](=O)([O-])C1=CC=C(OC2=CNC(C=C2)=O)C=C1 | C11H8N2O4
